US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOBUTYLPROPYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-cyclobutylpropyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (28% yield). 1H NMR (300 MHz, CDCl3) δ 8.03, 7.85, 7.73, 7.57, 7.34, 6.99, 4.05, 3.89-3.65, 3.45, 3.33, 2.27, 1.99, 1.76, 1.58-1.39. 13C NMR (75 MHz, CDCl3) δ 167.6, 162.8, 159.9, 145.4, 134.2, 132.4, 129.5, 127.2, 126.9, 126.7, 112.7, 46.4, 44.6, 44.5, 41.2, 39.4, 35.7, 34.1, 28.3, 27.2, 18.4. MS (ES+) m/z 475.9 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (3-cyclobutylpropyl)amide | C1(CCC1)CCCNC(=O)C=1N=NC(=CC1)Cl | C12H16ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOBUTYLPROPYL)AMIDE | C1(CCC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H28F3N5O2
